US06022891
Preparation of 2-benzoyl-1-(3-hydroxyphenyl)cyclopropane
To a 250 ml round bottom flask equipped with magnetic stirrer, nitrogen inlet, thermometer and addition funnel was charged 0.71 g (0.0178 moles) of 60% sodium hydroxide (oil suspension) and 50 mls of anhydrous DMSO. With stirring, under a nitrogen atmosphere, the trimethylsulfoxonium iodide (3.9 g, 0.0178 moles) was added in one portion, and the reaction was stirred at ambient temperature for 30 minutes. The mixture was then cooled to 15° C., and a solution of 3-hydroxychalcone (2.0 g, 0.0089 moles) was added dropwide in 10 mls of DMSO. The reaction was stirred for 1 hour at 15.10 C., then allowed to warm to ambient temperature, and stirred for an additional 16 hours. The reaction mixture was the quenched with 100 mls of 0.1N HCl, and extracted with 3×100 mls of ethyl ether. The combined ether extracts were washed successively with 2×100 mls of water, and 100 mls of saturated aqueous sodium chloride solution. The ether extract was then dried over anhydrous magnesium sulfate, filtered and concentrated to dryness under reduced pressure with a rotary evaporator at 45° C. to afford 2.1 g of the tital compound, 2-benzoyl-1-(3-hydroxyphenyl)cyclopropane, as a thick yellow oil. 100% crude yield.

reactant | sodium hydroxide | 0.0178 moles, 0.71 g | [OH-].[Na+]
reactant | trimethylsulfoxonium iodide | 0.0178 moles, 3.9 g | [I-].C[S+](=O)(C)C
reactant | 3-hydroxychalcone | 0.0089 moles, 2.0 g | OC=1C=C(C=CC1)C=CC(=O)C1=CC=CC=C1 | C15H12O2
solvent | DMSO | 10 mls | CS(=O)C | C2H6OS
solvent | DMSO | 50 mls | CS(=O)C | C2H6OS
product | 2-benzoyl-1-(3-hydroxyphenyl)cyclopropane | 2.1 g | C(C1=CC=CC=C1)(=O)C1C(C1)C1=CC(=CC=C1)O | C16H14O2
